US07138425B2
c) 2-(3-Nitro-6-propylaminophenyl)naphth[2,3-d]oxazole
Prepared by the method of Example 54a), from 2-(3-nitro-6-fluorophenyl)naphth[2,3-d]oxazole (277 mg, 0.9 mmol) and propylamine (400 μL, 5.0 mmol) the subtitle compound was obtained (250 mg, 80%). 1H NMR (DMSO) δ 9.37(t, 1H), 8.90(d, 1H), 8.38(s, 1H), 8.33(s, 1H), 8.26(dd, 1H), 8.11(m, 2H), 7.56(m, 1H), 7.11(d, 1H), 3.50(q, 2H), 1.76(m, 2H), 1.09(t, 3H).

reactant | 2-(3-nitro-6-fluorophenyl)naphth[2,3-d]oxazole | 0.9 mmol, 277 mg | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=C1C=CC=CC1=C2 | C17H9FN2O3
reactant | propylamine | 5.0 mmol, 400 μL | C(CC)N | C3H9N
product | 2-(3-Nitro-6-propylaminophenyl)naphth[2,3-d]oxazole | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C1C=CC=CC1=C2 | C20H17N3O3
